US05489614
a) 3,4-Dihydroxy-5-nitrobenzyl bromide
12.2 g of 3,4-dihydroxy-5-nitrobenzyl alcohol was dissolved in 100 ml of 47% hydrobromic acid at 50° C. After cooling the product was filtered and washed with 47% hydrobromic acid. The crude product was dissolved in dichloromethane and dried over Na2SO4. The mixture was filtered and the solvent was evaporated in vacuo. Yield 7.1 g.

reactant | 3,4-dihydroxy-5-nitrobenzyl alcohol | 12.2 g | OC=1C=C(CO)C=C(C1O)[N+](=O)[O-] | C7H7NO5
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 3,4-Dihydroxy-5-nitrobenzyl bromide | OC=1C=C(CBr)C=C(C1O)[N+](=O)[O-] | C7H6BrNO4
